US08071651B2
a) 5-Bromo-3-(3-methoxypropoxy)-1H-pyridin-2-one
350 ml of N,N-dimethylformamide and 358.11 mmol of 5-bromo-3-hydroxy-1H-pyridin-2-one [34206-49-0] are added to 1400 ml of a 1.4M NaOH solution. The mixture is stirred for 45 minutes, and 447.64 mmol of bis(3-methoxypropyl) sulphate are cautiously added. The mixture is stirred at room temperature for 20 hours and then diluted with water. It is extracted with dichloromethane (3×). The combined organic phases are dried over sodium sulphate and evaporated. The title compound is obtained as a yellowish oil from the residue by flash chromatography (SiO2 60 F). Rf=0.42 (dichloromethane-methanol-conc. ammonia 25% 200:20:1); Rt=2.68 (Gradient I).

reactant | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
reactant | 5-bromo-3-hydroxy-1H-pyridin-2-one | 358.11 mmol | BrC=1C=C(C(NC1)=O)O | C5H4BrNO2
reactant | NaOH | 1.4M | [OH-].[Na+]
reactant | bis(3-methoxypropyl) sulphate | 447.64 mmol | S(=O)(=O)(OCCCOC)OCCCOC | C8H18O6S
solvent | water | O | H2O
product | 5-Bromo-3-(3-methoxypropoxy)-1H-pyridin-2-one | BrC=1C=C(C(NC1)=O)OCCCOC | C9H12BrNO3
